US06268370B1
(a) N-Methyl-N-[4-picolyl]formamide
To a solution of 4-picolyl chloride.HCl (15 g, 91.4 mmol) and N-methylformamide (53.4 mL, 914 mmol) in 300 mL of THF was added 80% NaH in mineral oil (5.48 g, 183 mmol ). After stirring at rt for 18 h the mixture was quenched with ice water and partitioned between CH2Cl2 and H2O. The organic extract was washed with aqueous NaCl and dried over MgSO4. The solvent was removed in vacuo, and the residue was purified by flash chromatography, eluting with 50:1 CH2Cl2/MeOH. The title compound was obtained as a pale yellow oil (10.5 g, 76%): ESMS (m/z): 151 (M++H).

reactant | 4-picolyl chloride | N1=CC=C(C=C1)CCl | C6H6ClN
reactant | HCl | 91.4 mmol, 15 g | Cl | ClH
reactant | N-methylformamide | 914 mmol, 53.4 mL | CNC=O | C2H5NO
reactant | NaH | [H-].[Na+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | N-Methyl-N-[4-picolyl]formamide | CN(C=O)CC1=CC=NC=C1 | C8H10N2O
